US09163021B2
(5-isopropyl-1H-pyrazol-1-yl)acetic acid ethyl ester
Prepared according to the method described for Preparation 75 using 5-isopropyl-1H-pyrazole and ethyl bromoacetate. The residue was purified using silica gel column chromatography eluting with 4:1 hexane:EtOAc. The title compound was isolated as the lower running minor product in 6% yield, and taken directly on to the next step.

reactant | 5-isopropyl-1H-pyrazole | C(C)(C)C1=CC=NN1 | C6H10N2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | (5-isopropyl-1H-pyrazol-1-yl)acetic acid ethyl ester | 6% yield | C(C)OC(CN1N=CC=C1C(C)C)=O | C10H16N2O2
